US04650799
1,2-Bis(4-methoxycarbonyloxymethyl-3,5-dioxopiperazin-1-yl)ethane
To a mixture of 1,2-bis(4-hydroxymethyl-3,5-dioxopiperazin-1-yl)ethane (2.20 g, 7.0 m mol) and pyridine (20 ml), methyl chloroformate (1.41 g, 14.9 m mol) was added gradually at 0° C., and the mixture was stirred for 1.5 hours at 0° C., then successively for 3 hours at room temperature. The reaction mixture was added to water and was extracted with chloroform. The extract solution was washed with 10% sulfuric acid solution and successively with water, and was dried over magnesium sulfate. The crystals obtained by concentrating the extract solution under reduced pressure were washed with ethyl acetate and dried under reduced pressure to give the titled compound (1.76 g; yield 58.6%).

reactant | 1,2-bis(4-hydroxymethyl-3,5-dioxopiperazin-1-yl)ethane | 2.20 g | OCN1C(CN(CC1=O)CCN1CC(N(C(C1)=O)CO)=O)=O | C12H18N4O6
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 1.41 g | ClC(=O)OC | C2H3ClO2
solvent | water | O | H2O
product | 1,2-Bis(4-methoxycarbonyloxymethyl-3,5-dioxopiperazin-1-yl)ethane | 1.76 g, yield 58.6% | COC(=O)OCN1C(CN(CC1=O)CCN1CC(N(C(C1)=O)COC(=O)OC)=O)=O | C16H22N4O10
